US07968552B2
In an atmosphere of nitrogen, a mixture of 2-hydroxyethyl acetate, sodium hydride and DMF was stirred at room temperature for 15 minutes and then 1-bromo-4-fluoro-2-(trifluoromethyl)benzene was added, followed by stirring at room temperature for 1.5 hours to obtain 2-[4-bromo-3-(trifluoromethyl)phenoxy]ethanol.

reactant | 2-hydroxyethyl acetate | C(C)(=O)OCCO | C4H8O3
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromo-4-fluoro-2-(trifluoromethyl)benzene | BrC1=C(C=C(C=C1)F)C(F)(F)F | C7H3BrF4
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[4-bromo-3-(trifluoromethyl)phenoxy]ethanol | BrC1=C(C=C(OCCO)C=C1)C(F)(F)F | C9H8BrF3O2
